US04751306
A solution of 15.0 g of 7-methoxy-3-benzofuranacetic acid in 86 ml of oxalyl chloride was stirred at 25° for 1 hour. Removal of the solvent gave 16.35 g (100%) of crude 7-methoxy-3-benzofuranacetic acid chloride. NMR spectrum (200 mHz in CDCl3): δ4.0 (s, 3H), 4.23 (s, 2H), 6.83 (d, J=7 Hz, 1H), 7.07 (d, J=7 Hz, 1H), 7.18 (d, J=8 Hz, 1H) and 7.68 (s, 1H).

reactant | 7-methoxy-3-benzofuranacetic acid | 15.0 g | COC1=CC=CC2=C1OC(=C2)CC(=O)O | C11H10O4
reactant | oxalyl chloride | 86 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 7-methoxy-3-benzofuranacetic acid chloride | 16.35 g, 100% | COC1=CC=CC2=C1OC(=C2)CC(=O)Cl | C11H9ClO3
